US06265411B1
6-Trifluoromethyloxindole (270 mg, 1.3 mmol) was dissolved in dry, degassed DMF (5 ml) under argon. Sodium hydride (63 mg, 1.6 mmol) was added and the suspension stirred for 30 minutes at ambient temperature. A solution of 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline (111 mg, 0.332 mmol), (prepared as described for the starting material in Example 2), in dry, degassed DMF (5 ml) was added dropwise and the mixture heated at 100° C. for 2 hours. The mixture was allowed to cool and the DMF was removed by evaporation. The residue was purified by flash column chromatography eluting with methylene chloride/methanol (100/0 and then 15/1). The purified orange solid was triturated with ether, collected by filtration and dried under vacuum at 40° C. to give 6-methoxy-7-(2-methoxyethoxy)-4-(6-trifluoromethyloxindol-3-yl)quinazoline (100 mg, 52%).

reactant | 6-Trifluoromethyloxindole | 1.3 mmol, 270 mg | FC(C1=CC=C2CC(NC2=C1)=O)(F)F | C9H6F3NO
reactant | Sodium hydride | 1.6 mmol, 63 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline | 0.332 mmol, 111 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
product | 6-methoxy-7-(2-methoxyethoxy)-4-(6-trifluoromethyloxindol-3-yl)quinazoline | 100 mg, 52% | COC=1C=C2C(=NC=NC2=CC1OCCOC)C1C(NC2=CC(=CC=C12)C(F)(F)F)=O | C21H18F3N3O4
